US03957757
5.4 gm of the metho sulfate of 2-chloro-9-methoxycarbonyl-10-methyl-acridinium were suspended in 50 cc of methanol and 2.5 cc of water and after the addition of 5 gm of potassium borohydride, the temperature maintained at 35°-40°C and the mixture was then stirred for 30 minutes at room temperature. The mixture was added to a mixture of ice and water and then filtered. The precipitate was washed with water and then iced mathanol and dried to obtain 3.45 gm of 2-chloro-9-methoxycarbonyl-10-methyl-acridane melting at 166°C. The product occurred as a colorless solid soluble in alcohol and chloroform, slightly soluble in ether and insoluble in water. For analysis, the product was recrystallized from methyl ethylketone.

reactant | sulfate | S(=O)(=O)([O-])[O-]
reactant | 2-chloro-9-methoxycarbonyl-10-methyl-acridinium | ClC1=CC2=C(C3=CC=CC=C3[N+](=C2C=C1)C)C(=O)OC
reactant | water | 2.5 cc | O | H2O
reactant | potassium borohydride | 5 gm | [BH4-].[K+]
solvent | methanol | 50 cc | CO | CH4O
product | 2-chloro-9-methoxycarbonyl-10-methyl-acridane | 3.45 gm | ClC1=CC=2C(C3=CC=CC=C3N(C2C=C1)C)C(=O)OC | C16H14ClNO2
